US04537619
A mixture of 27.2 g of crude 2-pentafluoroethoxy-nitrobenzene, 2.6 g of Raney-nickel catalyst and 250 ml of dioxane is agitated in a hydrogen atmosphere for 24 hours at a temperature of 20°-25° C. The hydrogen consumption is 6.54 liters. After filtering off the catalyst, the solution is evaporated to dryness, yielding 20.5 g of 2-pentafluoroethoxy-aniline in form of a yellowish oil.

reactant | 2-pentafluoroethoxy-nitrobenzene | 27.2 g | FC(C(F)(F)F)(OC1=C(C=CC=C1)[N+](=O)[O-])F | C8H4F5NO3
reactant | hydrogen | [H][H] | H2
catalyst | Raney-nickel | 2.6 g | [Ni] | Ni
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | 2-pentafluoroethoxy-aniline | 20.5 g | FC(C(F)(F)F)(OC1=C(N)C=CC=C1)F | C8H6F5NO
